US04410536
6,9-Dibenzyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 28, from 3.3 g of 9-benzyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole and 2 ml of benzyl bromide in 50 ml of hexamethylphosphoric acid triamide in the presence of NaH. Melting point: 206° C.

reactant | 9-benzyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | 3.3 g | C(C1=CC=CC=C1)N1CC2=C(NC3=CC=C4C(=C23)C(=CS4)C)CC1 | C21H20N2S
reactant | benzyl bromide | 2 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaH | [H-].[Na+]
solvent | hexamethylphosphoric acid triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 6,9-Dibenzyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(C1=CC=CC=C1)N1C2=C(C3=C4C(=CC=C13)SC=C4C)CN(CC2)CC2=CC=CC=C2 | C28H26N2S
